US06730786B2
(a) Ethyl 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzoate
To a suspension of 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzoic acid (16.4 g, 0.05 mol, see EP 812 845) in ethanol (160 mL) was added concentrated hydrochloric acid (12.5 mL, 0.15 mol), which gave a solution on stirring. The solution was heated to reflux for 25 hours and then allowed to cool. It was concentrated under vacuum to give an orange oil which gave crystals on cooling. These were collected by filtration to give 13.7 g of crude product, which was purified by recrystallisation in acetonitrile to give 8.1 g of product as fine white crystals (45.5%).

reactant | 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzoic acid | 0.05 mol, 16.4 g | C(C)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C14H20N2O5S
reactant | hydrochloric acid | 0.15 mol, 12.5 mL | Cl | ClH
reactant | ethanol | 160 mL | C(C)O | C2H6O
product | Ethyl 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzoate | 8.1 g, 45.5% | C(C)OC1=C(C(=O)OCC)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C16H24N2O5S
